US04647561
A solution of 3-[(2-aminophenyl)amino]-2-butenoic acid, methyl ester (4.74 g., 230 mmole) in anhydrous tetrahydrofuran (20 ml.) and acetic acid (0.2 ml.) is treated with 2,6-dichlorobenzaldehyde (4.03 g., 23.0 mmole). The resulting reaction mixture is stirred at room temperature for 4 days. The solvent is stripped off to give a brown oil which is dissolved in isopropyl ether and allowed to stand at 0°-5° (refrigerator) for 24 hours. The solid that precipitates is filtered off and washed with additional isopropyl ether. This product is triturated with isopropyl ether and filtered off to give 2-(2,6-dichlorophenyl)-2,5-dihydro-4-methyl-1H-1,5-benzodiazepine-3-carboxylic acid, methyl ester; 119°-120° (with decomposition). TLC (silica gel; ethyl acetate:hexanes, 40:60) Rf =0.38.

reactant | 3-[(2-aminophenyl)amino]-2-butenoic acid, methyl ester | 230 mmole, 4.74 g | NC1=C(C=CC=C1)NC(=CC(=O)OC)C | C11H14N2O2
reactant | 2,6-dichlorobenzaldehyde | 23.0 mmole, 4.03 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 2-(2,6-dichlorophenyl)-2,5-dihydro-4-methyl-1H-1,5-benzodiazepine-3-carboxylic acid, methyl ester | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC2=C(N1)C=CC=C2)C)C(=O)OC | C18H16Cl2N2O2
